US07754744B2
Step 1: 4-(Quinolin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester
To a degassed solution of 2-chloro-quinoline (1.00 g, 6.11 mmol, 1.0 equiv; commercially available) and 4-amino-piperidine-1-carboxylic acid tert-butyl ester (1.47 g, 7.33 mmol, 1.2 equiv; commercially available) in dimethoxyethane (15 mL) was added KOtert-Bu (0.96 g, 8.56 mmol, 1.4 equiv), (R)-(−)-1-[(S)-2-(dicyclohexyl-phosphino)-ferrocenyl]ethyl-di-tert-butylphosphine (3.39 mg, 0.0061 mmol, 0.1 mol %; Josiphos ligand [CAS RN 158923-11-6]; commercially available from Strem Chemicals, USA) and palladium(II) acetate (1.37 mg, 0.0061 mmol, 0.1 mol %). The reaction mixture was stirred at 90° C. for 4 h, concentrated by evaporation under reduced pressure and the residue purified by silica column chromatography using a MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of heptane (+1% triethylamine)/ethyl acetate providing 1.0 g (50%) of the title compound. 1H NMR (300 MHz, DMSO): δ1.28-1.41 (m, 2H), 1.42 (s, 9H), 1.93-1.94 (m, 2H), 2.95-3.02 (m, 2H), 3.87-3.92 (m, 2H), 4.11-4.19 (m, 1H), 6.74 (d, J=8.9 Hz, 1H), 6.94 (d, J=7.6 Hz, 1H), 7.10-7.16 (m, 1H), 7.42-7.51 (m, 2H), 7.59 (d, J=7.6 Hz, 1H), 7.83 (d, J=8.9 Hz, 1H). 13C NMR (75 MHz, DMSO): δ28.07, 31.49, 42.41, 46.52, 78.52, 113.21, 121.03, 122.80, 125.52, 127.42, 128.89, 136.18, 147.82, 153.92, 156.13. MS (ISP): 328.5 [M+H]+.

reactant | 2-chloro-quinoline | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | KOtert-Bu | 8.56 mmol, 0.96 g, 1.4 equiv | O([K])C(C)(C)C
solvent | dimethoxyethane | 15 mL | C(OC)COC | C4H10O2
catalyst | palladium(II) acetate | 0.0061 mmol, 1.37 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-(Quinolin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC2=CC=CC=C2C=C1 | C19H25N3O2
